US07384951B2
a) 6-[(2,4-Dichloro-5-thiazolyl)hydroxymethyl]-1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-5-carboxylic acid, ethyl ester
To a solution of ethyl 3-methyl-1-(2-methylpropyl)-2,4-dioxo-1,2,3,4-tetrahydro-thieno[2,3-d]pyrimidine-5-carboxylate (1.5 g), 2,4-dichlorothiazole-5-carboxaldehyde (1.75 g) and DMPU (1.2 ml) in THF (25 ml) at −78° C., was added LDA (10 mmol). Acetic acid (3 ml) was added and the mixture allowed to warm to ambient temperature. The mixture was then partitioned between ethyl acetate and water, the organics were collected, dried over magnesium sulphate and concentrated to dryness. The residue was purified by normal phase chromatography (3:1 i-hexane:ethyl acetate) to give the sub-title compound as a yellow foam (0.45 g).

reactant | ethyl 3-methyl-1-(2-methylpropyl)-2,4-dioxo-1,2,3,4-tetrahydro-thieno[2,3-d]pyrimidine-5-carboxylate | 1.5 g | CN1C(N(C2=C(C1=O)C(=CS2)C(=O)OCC)CC(C)C)=O | C14H18N2O4S
reactant | 2,4-dichlorothiazole-5-carboxaldehyde | 1.75 g | ClC=1SC(=C(N1)Cl)C=O | C4HCl2NOS
reactant | DMPU | 1.2 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | LDA | 10 mmol | [Li+].CC(C)[N-]C(C)C
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | Acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 6-[(2,4-Dichloro-5-thiazolyl)hydroxymethyl]-1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-5-carboxylic acid, ethyl ester | 0.45 g | ClC=1SC(=C(N1)Cl)C(C1=C(C2=C(N(C(N(C2=O)C)=O)CC(C)C)S1)C(=O)OCC)O | C18H19Cl2N3O5S2
